US07572809B2
Similar procedure as described in the example 363 was used, starting from Trifluoro-methanesulfonic acid 1-isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-yl ester and Pyrrolidine to give 5 mg of (1-Isopropoxy-6-pyrrolidin-1-yl-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine as a yellow solid. LC-MS m/e 352 (MH+).

reactant | Trifluoro-methanesulfonic acid 1-isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-yl ester | C(C)(C)OC1=NC(=CC2=CC(=CC=C12)OS(=O)(=O)C(F)(F)F)NC1=NNC(=C1)C | C17H17F3N4O4S
reactant | Pyrrolidine | N1CCCC1 | C4H9N
product | (1-Isopropoxy-6-pyrrolidin-1-yl-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | 5 mg | C(C)(C)OC1=NC(=CC2=CC(=CC=C12)N1CCCC1)NC1=NNC(=C1)C | C20H25N5O
